US05356926
6-Methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide
Excess lithium (74 mg, 10 mM) is added portionwise to a -78° C. solution of a catalytic amount of ferric nitrate in 10 mL of liquid ammonia. The dry ice/acetone bath is removed to allow the reaction to warm to reflux. When the gray color of lithium amide remains for 10 minutes, 2 mL of freshly distilled tetrahydrofuran is added slowly followed by a solution of methyl 6-methoxy-3-(-methylethoxy)benzo[b]thiophene-2-carboxylic acid (200 mg, 0.71 mM) in 2 mL of tetrahydrofuran. The ammonia is allowed to evaporate. The reaction solution is diluted with ethyl acetate, washed with aqueous hydrochloric acid, followed by water, then brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. The crystalline residue is suspended in 1:9 ethyl acetate:hexane, filtered, and dried at 50° C. in vacuo affording 125 mg (66%) of colorless crystals, mp 164°-166° C.

reactant | lithium | 10 mM, 74 mg | [Li] | Li
reactant | ammonia | N | H3N
reactant | lithium amide | [NH2-].[Li+]
reactant | methyl 6-methoxy-3-(-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 0.71 mM, 200 mg | CC1=CC(=CC=2SC(=C(C21)OC(C)C)C(=O)O)OC | C14H16O4S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-Methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide | 125 mg, 66% | COC=1C=CC2=C(SC(=C2OC(C)C)C(=O)N)C1 | C13H15NO3S
